US04125732
[p-(3-Chloropropoxy)phenyl]acetic acid
To a solution of 41 g of potassium hydroxide in 250 ml of ethanol is added 50 g of p-hydroxyphenylacetic acid. To this solution is added 32 ml of 3-bromo-1-chloropropane and the mixture is refluxed for 4 hours. The mixture is cooled in an ice bath and filtered. The filtrate is acidified to pH 2 with concentrated HCl. Filtration gives a solid which is washed with water to give 68 g of product. Recrystallization from acetic acid water gives white crystals, mp 89°-91° C.

reactant | potassium hydroxide | 41 g | [OH-].[K+]
reactant | p-hydroxyphenylacetic acid | 50 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | 3-bromo-1-chloropropane | 32 ml | BrCCCCl | C3H6BrCl
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | [p-(3-Chloropropoxy)phenyl]acetic acid | 68 g | ClCCCOC1=CC=C(C=C1)CC(=O)O | C11H13ClO3
